US06552188B2
Synthesis of ethyl 3-(2,3,4-trimethoxyphenyl)propenoate
Sodium hydride (60% dispersion in mineral oil; 245 mg) was suspended in THF (1 mL) under an argon atmosphere, to the suspension ethyl diethylphosphonoacetate (1.11 mL) was added dropwise under ice cooling, and the mixture was stirred for 30 minutes. After 2,3,4-trimethoxybenzaldehyde (1.0 g) was then added to the mixture, the reaction mixture was stirred at room temperature for 30 minutes and concentrated under reduced pressure. The residue was dissolved in chloroform, and the solution was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | Sodium hydride | 245 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 1.11 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2,3,4-trimethoxybenzaldehyde | 1.0 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | ethyl 3-(2,3,4-trimethoxyphenyl)propenoate | COC1=C(C=CC(=C1OC)OC)C=CC(=O)OCC | C14H18O5
